US04343939
4-[[Bis(p-dimethylaminophenyl)methoxy]acetyl]Morpholine
A solution of 4,4'-bis(N,N-dimethylamino)benzhydrol, methyl ether (9.0 g, 0.032 mole), glycol morpholinamide (4.6 g, 0.032 mole), 150 ml of tetrahydrofuran, 250 ml of n-hexane and 4 drops of methanesulfonic acid was refluxed for about 8 hours, during which time an additional 200 ml of solvent was added. The volume was reduced to 200 ml and the color was discharged with tetramethylguanidine. The solution was filtered hot and then cooled to precipitate a white solid. The solid was recrystallized from 350 ml of methyl cyclohexane to give 4.9 g of blue crystals; mp 147.8°-150° C.

reactant | 4,4'-bis(N,N-dimethylamino)benzhydrol | CN(C)C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1 | C17H22N2O
reactant | methyl ether | 0.032 mole, 9.0 g | COC | C2H6O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetramethylguanidine | CN(C(N(C)C)=N)C | C5H13N3
catalyst | methanesulfonic acid | 4 drops | CS(=O)(=O)O | CH4O3S
solvent | n-hexane | 250 ml | CCCCCC | C6H14
product | 4-[[Bis(p-dimethylaminophenyl)methoxy]acetyl]Morpholine | 4.9 g | CN(C1=CC=C(C=C1)C(OCC(=O)N1CCOCC1)C1=CC=C(C=C1)N(C)C)C | C23H31N3O3
